US09422332B2
To a solution of (S)-2-((S)-2-amino-2-cyclohexyl-acetyl)-2,3-dihydro-1H-isoindole-1-carboxylic acid (2,6-difluoro-phenyl)-amide trifluoroacetate (179 mg, 339 μmol, Eq: 1.00), (S)-2-(tert-butoxycarbonyl-methyl-amino)-propionic acid (64.2 mg, 339 μmol, Eq: 1.00), HATU (142 mg, 373 μmol, Eq: 1.1) in DMF (1 mL) at 0° C. was added DIEA (132 mg, 178 μL, 1.02 mmol, Eq: 3). The reaction was stirred at RT for 1 h, diluted with water and extracted with EtOAc. The combined organics were washed with water, brine, dried with MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography to give ((S)-1-{(S)-1-cyclohexyl-2-[(S)-1-(2,6-difluoro-phenylcarbamoyl)-1,3-dihydro-isoindol-2-yl]-2-oxo-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester (174 mg) as a white foam.

reactant | (S)-2-((S)-2-amino-2-cyclohexyl-acetyl)-2,3-dihydro-1H-isoindole-1-carboxylic acid (2,6-difluoro-phenyl)-amide trifluoroacetate | 339 μmol, 179 mg | FC(C(=O)O)(F)F.FC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(CC2=CC=CC=C12)C([C@H](C1CCCCC1)N)=O
reactant | (S)-2-(tert-butoxycarbonyl-methyl-amino)-propionic acid | 339 μmol, 64.2 mg | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)C)C | C9H17NO4
reactant | HATU | 373 μmol, 142 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.02 mmol, 178 μL, 132 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | ((S)-1-{(S)-1-cyclohexyl-2-[(S)-1-(2,6-difluoro-phenylcarbamoyl)-1,3-dihydro-isoindol-2-yl]-2-oxo-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester | 174 mg | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@H](C(=O)N1[C@@H](C2=CC=CC=C2C1)C(NC1=C(C=CC=C1F)F)=O)C1CCCCC1)=O)=O | C32H40F2N4O5
